US04097591
A solution of 5.5 g of N2 -(2-dibenzothienylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester in 15 ml of methanol and 15 ml of 2N-NaOH solution was warmed to 40° C and held at that temperature for 10 hours. At the end of this period, the reaction mixture was concentrated and chromatographed on 200 ml of Daiaion ® SK 102 ion exchange resin (200-300 mesh, H30 form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with ethanol-water (1 : 4) and eluted with ethanol-water-NH4OH (10 : 9 : 1). The main fraction was evaporated to dryness and washed with ethyl ether to give 3.05 g (62 percent) of N2 -(2-dibenzothienylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine as an amorphous solid. I.R. (KBr): 3,400, 1,630, 1,280 cm-1

reactant | N2 (2-dibenzothienylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester | 5.5 g | N#N.C(C)OC(CN(CCOC)C([C@@H](NS(=O)(=O)C1=CC2=C(SC3=C2C=CC=C3)C=C1)CCCNC(N)=N)=O)=O
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | N2 (2-dibenzothienylsulfonyl)-L-arginyl-N-(2-methoxyethyl)glycine | 3.05 g, 62 percent | N#N.C1=C(C=CC=2SC3=C(C21)C=CC=C3)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)O)CCOC | InChI=1S/C23H29N5O6S2.N2/c1-34-12-11-28(14-21(29)30)22(31)18(6-4-10-26-23(24)25)27-36(32,33)15-8-9-20-17(13-15)16-5-2-3-7-19(16)35-20;1-2/h2-3,5,7-9,13,18,27H,4,6,10-12,14H2,1H3,(H,29,30)(H4,24,25,26);/t18-;/m0./s1
